US06638927B2
A pre-cooled solution of diphosgene (168.0 mmol) in ethyl acetate was added dropwise via addition funnel into the cold solution of 4-(t-butyl)cyclohexylamine (140.0 mmol) and charcoal (catalytic) in ethyl acetate at −10C. After the addition, the reaction was heated to reflux overnight, and filtered through a Celite plug. The solution was concentrated to give a thick oil, which was distilled in vacuo to yield 4-(tert-butyl)cyclohexanisocyanate as a clear liquid (48%).

reactant | diphosgene | 168.0 mmol | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 4-(t-butyl)cyclohexylamine | 140.0 mmol | C(C)(C)(C)C1CCC(CC1)N | C10H21N
reactant | charcoal | C | CH4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(tert-butyl)cyclohexanisocyanate | 48% | [N-]=C=O.C(C)(C)(C)C1CCCCC1 | InChI=1S/C10H20.CNO/c1-10(2,3)9-7-5-4-6-8-9;2-1-3/h9H,4-8H2,1-3H3;/q;-1
